US07361659B2
2-Amino-thiazole-5-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide
A stirred suspension of 2-acetamido-thiazole-5-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide (0.68 g, 2.32 mmol) in 6N hydrochloric acid (20 ml) was heated for 2 h at 80° C., evaporated., and saturated NaHCO3 solution (30 ml) was added. The mixture was extracted with ethyl acetate (3×50 ml), the combined organic layers washed with brine (30 ml), dried (MgSO4) and evaporated. The crude product was further purified by column chromatography on silica gel (dichloromethane/MeOH/NH4OH 80:10:1) to yield the title compound (0.42 g, 72%) as a colorless oil. MS (ISP) 250.0 [(M−H)−].

reactant | 2-acetamido-thiazole-5-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | 2.32 mmol, 0.68 g | OCC(C)(C)NS(=O)(=O)C1=CN=C(S1)NC(C)=O | C9H15N3O4S2
solvent | hydrochloric acid | 6N, 20 ml | Cl | ClH
product | 2-Amino-thiazole-5-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | 0.42 g, 72% | OCC(C)(C)NS(=O)(=O)C1=CN=C(S1)N | C7H13N3O3S2
